US06274620B1
To a mixture of 3-Benzyloxycarbonylamino-2-(2,4,6-trimethyl-benzenesulfonylamino)-propionic acid 2-tert-butoxycarbonylamino-3-methyl-butyl ester (Z-1) (280 mg, 0.46 mmol methanol (70 ml), was added Pd/C. The reaction was stirred under hydrogen atmosphere overnight at room temperature. Catalyst was removed by filtration and the solvent was evaporated. Purification of the residue on silica gel (1:2 hexane:EtOAc) gave 120 mg (56%) of pure 3-Amino-2-(2,4,6-trimethyl-benzenesulfonylamino)-propionic acid 2-tert-butoxycarbonylamino-3-methyl-butyl ester (Z-2).

reactant | 3-Benzyloxycarbonylamino-2-(2,4,6-trimethyl-benzenesulfonylamino)-propionic acid 2-tert-butoxycarbonylamino-3-methyl-butyl ester | C(C)(C)(C)OC(=O)NC(COC(C(CNC(=O)OCC1=CC=CC=C1)NS(=O)(=O)C1=C(C=C(C=C1C)C)C)=O)C(C)C | C30H43N3O8S
reactant | methanol | 0.46 mmol, 70 ml, 280 mg | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | 3-Amino-2-(2,4,6-trimethyl-benzenesulfonylamino)-propionic acid 2-tert-butoxycarbonylamino-3-methyl-butyl ester | 120 mg, 56% | C(C)(C)(C)OC(=O)NC(COC(C(CN)NS(=O)(=O)C1=C(C=C(C=C1C)C)C)=O)C(C)C | C22H37N3O6S
